US05356898
A solution of 4,6-bis (1,1-dimethylethyl)-5-hydroxy-2-pyrimidine carboxaldehyde (1.5 g, 6.3 mmol), hydroxylamine hydrochloride (2.2 g, 32.7 mmol), and sodium acetate (2.9 g, 34.9 mmol) in ethanol (20 mL) is heated at reflux for 12 hours. The reaction mixture is poured over water (150 mL) and the precipitate is collected by filtration. Recrystallization from ether/hexane gives the desired 4,6-bis (1,1-dimethylethyl)-5-hydroxy-2-pyrimidine carboxaldehyde oxime as a mixture of isomers (0.62 g, 39%); mp 205°-220° C.

reactant | 4,6-bis (1,1-dimethylethyl)-5-hydroxy-2-pyrimidine carboxaldehyde | 6.3 mmol, 1.5 g | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C=O | C13H20N2O2
reactant | hydroxylamine hydrochloride | 32.7 mmol, 2.2 g | Cl.NO
reactant | sodium acetate | 34.9 mmol, 2.9 g | C(C)(=O)[O-].[Na+]
reactant | water | 150 mL | O | H2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4,6-bis (1,1-dimethylethyl)-5-hydroxy-2-pyrimidine carboxaldehyde oxime | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C=NO | C13H21N3O2
